US08791123B2
Tert-butyl phenyl carbonate (0.421 mL, 2.270 mmol) was added to a solution of 2-methylpropane-1,2-diamine (200 mg, 2.270 mmol) in EtOH (4.5 mL) and the reaction mixture was heated at reflux overnight. The mixture was concentrated and the residue diluted in water. The mixture was acidified with 2N HCl to pH 4 and washed with DCM. The aqueous layer was treated with 1M NaOH (2 mL) and extracted with DCM. The combined organic layers were dried with MgSO4, filtered and concentrated to afford tert-butyl 2-amino-2-methylpropylcarbamate (158 mg, 37% yield) as a colorless oil. MS (apci) m/z=188.9 (M+H).

reactant | Tert-butyl phenyl carbonate | 2.270 mmol, 0.421 mL | C(OC(C)(C)C)(OC1=CC=CC=C1)=O | C11H14O3
reactant | 2-methylpropane-1,2-diamine | 2.270 mmol, 200 mg | CC(CN)(C)N | C4H12N2
solvent | EtOH | 4.5 mL | CCO | C2H6O
product | tert-butyl 2-amino-2-methylpropylcarbamate | 158 mg, 37% yield | NC(CNC(OC(C)(C)C)=O)(C)C | C9H20N2O2
